US08937092B2
To a stirred solution of ethyl 2-(3-methoxy-4-nitrophenyl)propanoate (683 mg, 2.697 mmol) in tetrahydrofuran and ethanol as co-solvent were added 10% Pd/C (70 mg). The mixture was charged with H2 (gas) balloon. The resulting mixture was stirred for 15 h, then filtered using celite. The filtrate removed in vacuo. The crude was purified by column chromatography. Ethyl 2-(4-amino-3-methoxyphenyl)propanoate (447 mg) was obtained as 74% yield.

reactant | ethyl 2-(3-methoxy-4-nitrophenyl)propanoate | 2.697 mmol, 683 mg | COC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C | C12H15NO5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | Ethyl 2-(4-amino-3-methoxyphenyl)propanoate | 447 mg, 74% yield | NC1=C(C=C(C=C1)C(C(=O)OCC)C)OC | C12H17NO3
